US04331480
Preparation of 3-(4-methoxyphenylsulfonyl)acrylonitrile
In a flask, 59.5 g. (0.31 mole) sodium 4-methoxybenzenesulfinate, 25.4 g. (0.31 mole) sodium acetate and 19.2 g. (0.31 mole) boric acid were dissolved in a mixture of 150 ml. water and 275 ml. isopropyl alcohol. There was then added, with stirring, dropwise, 33.9 g. (31 ml., 0.39 mole) 2-chloroacrylonitrile. The mixture was stirred for some time at room temperature. Water was then added and the mixture stirred for one hour. A precipitate formed, which was filtered, washed with water and ethanol, and dried.

reactant | sodium 4-methoxybenzenesulfinate | 0.31 mole | COC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | sodium acetate | 0.31 mole | C(C)(=O)[O-].[Na+]
reactant | boric acid | 0.31 mole | B(O)(O)O | BH3O3
reactant | 2-chloroacrylonitrile | 0.39 mole, 31 ml | ClC(C#N)=C | C3H2ClN
solvent | Water | O | H2O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 3-(4-methoxyphenylsulfonyl)acrylonitrile | COC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C10H9NO3S
